US07875645B2
4-(1-Benzyl-1H-imidazol-2-ylmethyl)-3,5-diethyl-1-propyl-1H-pyrazole was prepared from 4-(1-benzyl-1H-imidazol-2-ylmethyl)-heptane-3,5-dione and propylhydrazine in analogy to Example 190 b): light yellow viscous oil; MS (EI): 336.2 ((M+.), 100%), 245.3 ((M-PhCH2)+.).

reactant | 4-(1-benzyl-1H-imidazol-2-ylmethyl)-heptane-3,5-dione | C(C1=CC=CC=C1)N1C(=NC=C1)CC(C(CC)=O)C(CC)=O | C18H22N2O2
reactant | propylhydrazine | C(CC)NN | C3H10N2
product | 4-(1-Benzyl-1H-imidazol-2-ylmethyl)-3,5-diethyl-1-propyl-1H-pyrazole | C(C1=CC=CC=C1)N1C(=NC=C1)CC=1C(=NN(C1CC)CCC)CC | C21H28N4
